US04243609
A mixture of 2.25 g of methyl 3-fluoro-4-(hexadecylamino)benzoate, 280 mg of 1,3-propanediol and 1.37 g. of p-toluenesulfonic acid is heated at 180° C. for 18 hours and then is partitioned between ether and 3% aqueous sodium carbonate solution. The ether layer is separated, dried, and evaporated to yield 3-hydroxypropyl 3-fluoro-4-(hexadecylamino)benzoate.

reactant | methyl 3-fluoro-4-(hexadecylamino)benzoate | 2.25 g | FC=1C=C(C(=O)OC)C=CC1NCCCCCCCCCCCCCCCC | C24H40FNO2
reactant | 1,3-propanediol | 280 mg | C(CCO)O | C3H8O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-hydroxypropyl 3-fluoro-4-(hexadecylamino)benzoate | FC=1C=C(C(=O)OCCCO)C=CC1NCCCCCCCCCCCCCCCC | C26H44FNO3
